Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
suicide attempt
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old male with a PMH of depression, who 
presents following a suicide attempt with buproprion, advil, and 
bleach. 

Patient reports that he has been generally feeling numb and with 
a low mood for the past several months, and especially in the 
past few weeks. He notes that this really worsened after the 
death of a close friend around 9 months ago. He states that he 
has tried different ways of coping these past few weeks - he 
tried some cocaine and some Xanax, and reports generally trying 
to find ways to feel numb. The morning of admission patient 
states that he took around 20 tabs of his bupropion, as well as 
12 tabs of advil. He then took around 4oz of bleach, and tried 
to take an additional 4 oz which he vomited up. He then fell 
asleep, but was later convinced to call a BU crisis hotline, and 
was brought to the ED by EMS. 
In the ED:
Initial vital signs were notable for: T 97.2, HR 85, BP 180/110,
RR 16, 98% RA 

Exam notable for:
General: Well appearing, no acute distress
Cardiac: RRR no rgm
Abdominal/GI: No tenderness or masses
Psych: Normal judgment, mood appropriate for situation

Labs were notable for:
- CBC: WBC 14.2, hgb 15.1, plt 211 
- Lytes:

143 / 105 / 9     AGap=16 
-------------- 95 
3.6 \ 22 \ 0.8  

- Ca: 9.5 Mg: 1.5 P: 3.2
- LFTs: AST: 34 ALT: 34 AP: 86 Tbili: 0.5 Alb: 4.5 
- lipase 28
- pH 7.42/39
- urine and serum tox positive for urine benzos

Studies performed include:
- CXR with no acute cardiopulmonary abnormality. No 
pneumomediastinum.

Consults:
- Case was discussed with GI (though no formal consult done). 
Stated that bleach ingestion typically does not cause 
significant injury. Recommended discussing case with poison 
control, calling back if symptoms. 
- Poison control was contacted. Per poison control bleach is an 
irritant of the esophagus but low concern for perforation as a 
result. Poison control recommends 24 hour observation period for
buproprion dose with regard to seizure activity, neuro status
changes.

Patient was given: 1L LR 

Vitals on transfer: HR 82, BP 147/74, RR 17, 97% RA 

Upon arrival to the floor, patient reports that currently he 
only has pain at his IV site. His throat has been a bit sore 
after vomiting. He currently denies chest pain or abdominal 
pain. No headaches or palpitations. 

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative.  
 
Past Medical History:
PMH:  None
Past Psychiatric History:
- Past diagnoses: Depression
- Hospitalizations: Denies
- Psychiatrist: Dr. ___
- Therapist: ___ (___ Behavioral ___)
- Self-injury/Suicide attempts: SA in ___ by OD on "handful 
of oxycodone" with cognac, patient states he was upset over the 
recent death of his close friend at the time. Woke up the next 
morning, did not require hospitalization.  
- Trauma: Denies
- Access to Weapons: Denies 
 
Social History:
___
Family History:
mom and sister with depression 

 
Physical Exam:
ADMISSION EXAM
VITALS: T 98.3, HR 98, BP 150/83, RR 18, 98% RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
EXAM
VITALS: 98.5 PO 136 / 79 66 18 97 Ra  
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION:
==========
___ 08:58PM BLOOD WBC-14.2* RBC-5.20 Hgb-15.1 Hct-45.4 
MCV-87 MCH-29.0 MCHC-33.3 RDW-12.7 RDWSD-40.0 Plt ___
___ 08:58PM BLOOD Neuts-82.9* Lymphs-10.1* Monos-5.9 
Eos-0.4* Baso-0.3 Im ___ AbsNeut-11.___* AbsLymp-1.44 
AbsMono-0.84* AbsEos-0.06 AbsBaso-0.04
___ 08:58PM BLOOD Glucose-95 UreaN-9 Creat-0.8 Na-143 K-3.6 
Cl-105 HCO3-22 AnGap-16
___ 08:58PM BLOOD ALT-34 AST-34 AlkPhos-86 TotBili-0.5
___ 08:58PM BLOOD Albumin-4.5 Calcium-9.5 Phos-3.2 Mg-1.5
___ 08:58PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 09:02PM BLOOD ___ pO2-89 pCO2-39 pH-7.42 
calTCO2-26 Base XS-0 Comment-GREEN TOP
___ 09:02PM BLOOD O2 Sat-95
___ 10:16PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:16PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 10:16PM URINE bnzodzp-POS* barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

MICROBIOLOGY:
=============
___ URINE CULTURE (Final ___:    NO GROWTH. 

DISCHARGE:
==========
___ 07:20AM BLOOD WBC-9.4 RBC-4.92 Hgb-14.3 Hct-42.7 MCV-87 
MCH-29.1 MCHC-33.5 RDW-12.7 RDWSD-40.2 Plt ___
___ 07:20AM BLOOD ___ PTT-27.5 ___
___ 07:20AM BLOOD Glucose-88 UreaN-6 Creat-0.8 Na-146 K-3.5 
Cl-108 HCO3-25 AnGap-13

IMAGING:
==========
CXR ___
No acute cardiopulmonary abnormality.  No pneumomediastinum.
 
Brief Hospital Course:
Mr. ___ is a ___ year old male ___ student 
at ___, from ___, with a PMH of depression, who presents 
following a suicide attempt with buproprion, advil, and bleach, 
admitted for medical observation prior to psych placement. 

# Suicide attempt 
# Major Depressive Episode
# Bupropion ingestion
Patient presenting following suicide attempt in the context of 
multiple psychosocial stressors and low mood as detailed in the 
HPI with several substances, consistent with an underlying major 
depressive episode. Evaluated by psych, several risk factors 
placed him at high risk for self harm, including history of 
suicide attempts, lethality of recent attempt, social 
withdrawal, and recent loss of family member. He was placed 
under ___ with plan for inpatient psych placement once 
medically cleared. He was monitored for neurotoxic complications 
from bupropion ingestion for 24 hours per toxicology and had no 
notable complications with Q4H neuro checks. Per Psychiatry, he 
remained under ___ and 1:1 sitter was maintained. He is 
now being discharged to ___ for further 
inpatient psychiatric care. Home buproprion 200 mg daily was 
held per psych team at ___, treatment to be determined by 
inpatient psych team at ___. 

# Bleach ingestion
# Advil ingestion
Per GI and poison control, may cause irritation but otherwise 
low risk of harm. He complained of mild sore throat and 
decreased appetite which improved during his observation and 
declined symptomatic treatment for this.

TRANSITIONAL ISSUES:
================
[] bupropion held on discharge, further treatment per psych team
[] does not have established PCP in ___ need one on 
discharge
[] followup with outpatient ___ psych team on discharge:
- Psychiatrist: Dr. ___
- Therapist: ___ (___)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 200 mg PO QAM 

 
Discharge Medications:
1. HELD- BuPROPion (Sustained Release) 200 mg PO QAM  This 
medication was held. Do not restart BuPROPion (Sustained 
Release) until further inpatient psychiatry treatment 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
suicide attempt
toxic ingestion 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You came to the hospital after a suicide attempt. The psychiatry 
team saw you and felt you would benefit from further treatment 
for depression after a period of observation in the hospital, 
which you successfully completely. You are now being discharged 
to have further care for your depression.
It was a pleasure caring for you and we wish you the best,
Your ___ Team
 
Followup Instructions:
___